US04235918
9.4 g of 4-(4-methyl-3-sulfamoylphenyl)-4-oxobutanoic acid are reacted analogously to the instructions indicated in Example 1 using 64 ml of absolute tetrahydrofurane, 6.7 ml of triethylamine, 4.7 ml of ethyl chloroformate and 90 ml of 40% strength aqueous methylamine solution to yield 5-hydroxyl-1-methyl-5-(4-methyl-3-sulfamoylphenyl)-2-oxopyrrolidine.

reactant | 4-(4-methyl-3-sulfamoylphenyl)-4-oxobutanoic acid | 9.4 g | CC1=C(C=C(C=C1)C(CCC(=O)O)=O)S(N)(=O)=O | C11H13NO5S
reactant | tetrahydrofurane | 64 ml | O1CCCC1 | C4H8O
reactant | ethyl chloroformate | 4.7 ml | ClC(=O)OCC | C3H5ClO2
reactant | methylamine | CN | CH5N
solvent | triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
product | 5-hydroxyl-1-methyl-5-(4-methyl-3-sulfamoylphenyl)-2-oxopyrrolidine | OC1(CCC(N1C)=O)C1=CC(=C(C=C1)C)S(N)(=O)=O | C12H16N2O4S
